US05153203
To a mixture of 277 mg of ethyl 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate, 318 mg of 1-t-butoxycarbonyl-3-hydroxypyrrolidine, 194 mg of DBU and 3 ml of DMSO was added 74 mg of 55% sodium hydride while the former was stirred at room temperature. After the resultant mixture was stirred for 1 hour at room temperature, the reaction mixture was diluted with chloroform and then successively washed with 10% citric acid and saturated saline. The organic layer was dried over anhydrous sodium sulfate and then concentrated to dryness. The residue was recrystallized from ethanol, whereby 120 mg of 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid was obtained.

reactant | ethyl 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 277 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)N)=O)C(=O)OCC | C15H13F3N2O3
reactant | 1-t-butoxycarbonyl-3-hydroxypyrrolidine | 318 mg | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | DBU | 194 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium hydride | 74 mg | [H-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 120 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)N)F | C22H25F2N3O6
